US05633248
Ethyl 5-cyano-4,4-diphenyl-2-pentenoate
3,3-Diphenyl-3-formylpropionitrile (0.85 g) and (carbethoxymethylene)triphenylphosphorane (1.46 g) were heated in chloroform (20 ml) on reflux for 7 hours. The reaction mixture was then concentrated to dryness and the group was purified by silica gel column chromatography to provide the title compound (0.7 g) as colorless oil.

reactant | 3,3-Diphenyl-3-formylpropionitrile | 0.85 g | C1(=CC=CC=C1)C(CC#N)(C=O)C1=CC=CC=C1 | C16H13NO
reactant | (carbethoxymethylene)triphenylphosphorane | 1.46 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-cyano-4,4-diphenyl-2-pentenoate | 0.7 g | C(#N)CC(C=CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19NO2
